US07872141B2
13.94 g of 2-amino-5-chloropyridine (1.5 equiv.) and 30 g mono ester mono amide (70.85 mmol, 1 equiv.) were dissolved in 240 ml THF. The solution was cooled to 0-2° C. and 212.6 ml 1M LiHMDS solution in THF (3 equiv.) was added over 20 min. After 1.5 h reaction (in process control by HPLC), 245 ml 2M HClaq were added over 15 min keeping the temperature between 0-10° C. (pH of resulting mixture: 3.2). The resulting mixture was extracted twice with 350 ml ethyl acetate. The organic phases were washed sequentially with 200 ml half saturated NaClaq, combined, dried over Na2SO4, filtered and concentrated under reduced pressure to give crude product which was then purified by crystallized from a 1:2 ethanol/heptane mixture (85% yield).

reactant | 2-amino-5-chloropyridine | 13.94 g, 1.5 equiv. | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | LiHMDS | 1M, 212.6 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | THF | 240 ml | C1CCOC1 | C4H8O
reactant | THF | 3 equiv. | C1CCOC1 | C4H8O
product | ethanol heptane | 85% yield | C(C)O.CCCCCCC | InChI=1S/C7H16.C2H6O/c1-3-5-7-6-4-2;1-2-3/h3-7H2,1-2H3;3H,2H2,1H3
